US05155100
A solution of benzyl (S)-N-[2-(diphenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionate (1.8 g. 2.77 mmol) in ethyl acetate (30 mL) is hydrogenated in a Parr shaker in the presence of palladium on carbon (10%, 800 mg) at 40 psi for 4 hours. The catalyst is filtered off and washed with methanol (30 mL). After concentration of the filtrate in vacuo, the residue is triturated with ether and the resulting crystalline solid dried under reduced pressure to give (S)-N-[2-(diphenylphosphonomethylamino)-3-(4-biphenylyl)propionyl]-3-aminopropionic acid. It is recrystallized to constant melting point from methanol/ether, m.p. 102°; [α]D =-8.99 (c=0.95, CH3OH).

reactant | benzyl (S)-N-[2-(diphenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionate | 2.77 mmol, 1.8 g | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)CN[C@H](C(=O)NCCC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)C1=CC=CC=C1 | C38H37N2O6P
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 800 mg | [Pd] | Pd
product | (S)-N-[2-(diphenylphosphonomethylamino)-3-(4-biphenylyl)propionyl]-3-aminopropionic acid | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)CN[C@H](C(=O)NCCC(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C31H31N2O6P
